US09421205B2
(i) tert-Butyl 3-(2-(2-(methylthio)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)benzoate (I19)
tert-Butyl 3-((2-(methylthio)-5-(trifluoromethyl)pyrimidin-4-yl)ethynyl)benzoate (I18) (0.624 g, 1.58 mmol) and 10% Pd/C (0.206 g) was taken up in THF (20 mL) and H2 bubbled through the mixture for 5 minutes before stirring at room temperature for 20 hours under a hydrogen atmosphere. The mixture was filtered through celite and concentrated under reduced pressure. This procedure was repeated twice with 10% Pd/C (0.212 g) and 20% Pearlman's catalyst (0.316 g) respectively to give the title compound (I19) as a yellow oil that was reacted without further purification. LCMS Method C: rt 7.14 min.

reactant | tert-Butyl 3-((2-(methylthio)-5-(trifluoromethyl)pyrimidin-4-yl)ethynyl)benzoate | 1.58 mmol, 0.624 g | CSC1=NC=C(C(=N1)C#CC=1C=C(C(=O)OC(C)(C)C)C=CC1)C(F)(F)F | C19H17F3N2O2S
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.206 g | [Pd] | Pd
product | tert-Butyl 3-(2-(2-(methylthio)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)benzoate | CSC1=NC=C(C(=N1)CCC=1C=C(C(=O)OC(C)(C)C)C=CC1)C(F)(F)F | C19H21F3N2O2S
